US04722926
The procedure described in Example 2 was followed, using 1.5 g of 4-chlorophenyl isocyanate, 3.5 g of 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride, 1.2 g of triethylamine and 50 ml of methyl chloride, to give 1.1 g (21% of theory) of N-(4-chlorophenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride monohydrate as an off-white crystalline solid, M.p. 243°-245° C.

reactant | 4-chlorophenyl isocyanate | 1.5 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride | 3.5 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCS)C=C1
reactant | methyl chloride | 50 ml | CCl | CH3Cl
solvent | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
product | N-(4-chlorophenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride monohydrate | 1.1 g, 21% | O.Cl.Cl.ClC1=CC=C(C=C1)NC(O)=SCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | InChI=1S/C21H27Cl2N3OS.2ClH.H2O/c22-18-4-2-17(3-5-18)16-26-13-11-25(12-14-26)10-1-15-28-21(27)24-20-8-6-19(23)7-9-20;;;/h2-9,24,27-28H,1,10-16H2;2*1H;1H2
